US05026871
Preparation of 4-(1,3,3a,4,7,7a-hexahydro-1,3-dioxo-4,7-methano-2H-isoindol-2-yl)benzoic acid
To 4-aminobenzoic acid (800 g, 5.83 mol) is added dimethylacetamide (2.5 l), toluene (1 l), and slowly with stirring bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride (956 g, 5.83 mol). After the addition the mixture is stirred for 1 hour, raised to 140° C. with removal of water (100 ml) azeotropically and then raised to 165° C. to remove the toluene. The mixture is cooled and the product precipitated into water (3 l). Filtration, washing with water, drying in an oven at 80° C. and recrystallisation from ethanol yields a white crystalline solid (1.56 kg, 94%). M.p.: 224°-228° C.

reactant | 4-aminobenzoic acid | 5.83 mol, 800 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | dimethylacetamide | 2.5 l | CC(=O)N(C)C | C4H9NO
reactant | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
reactant | bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride | 5.83 mol, 956 g | C12C3C(C(C=C1)C2)C(=O)OC3=O | C9H8O3
solvent | water | 100 ml | O | H2O
product | 4-(1,3,3a,4,7,7a-hexahydro-1,3-dioxo-4,7-methano-2H-isoindol-2-yl)benzoic acid | 1.56 kg, 94% | O=C1N(C(C2C3C=CC(C12)C3)=O)C3=CC=C(C(=O)O)C=C3 | C16H13NO4
